US03939202
To a suspension of sodium hydride (2.64 g) in ether (100 ml), a solution of ethyl 3,7,11,15-tetramethyl-6,10,14-hexadecatrien-2-one-1-carboxylate (18.1 g) in ether (18 ml) is dropwise added, and the resulting mixture is dropwise added, and the resulting mixture is stirred for 30 minutes. Then, a solution of 1-bromo-2,6,10,14,18-pentamethyl-20-acetoxy-2,6,10,14,18-eicosapentaene (26 g) in ether (26 ml) is dropwise added thereto. The reaction mixture is poured into ice water. The ether layer is washed with water, dried and evaporated. The residual material is treated as in Example 1 (4) to give 3,7,11,15,19,23,27,31, 35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaen-22-on-1-ol (29 g). IR: 3400, 1000 cm-1 (OH); 1705 cm-1 (C=O); 1668 cm-1 (C=C). NMR (carbon tetrachloride): δ 1.59 (s), 1.66 (s), 2.01 (m), 2.7 (m), 4.1 (m), 5.05 (m).

reactant | sodium hydride | 2.64 g | [H-].[Na+]
reactant | ethyl 3,7,11,15-tetramethyl-6,10,14-hexadecatrien-2-one-1-carboxylate | 18.1 g | CC(C(CC(=O)OCC)=O)CCC=C(CCC=C(CCC=C(C)C)C)C | C23H38O3
reactant | 1-bromo-2,6,10,14,18-pentamethyl-20-acetoxy-2,6,10,14,18-eicosapentaene | 26 g | BrCC(=CCCC(=CCCC(=CCCC(=CCCC(=CCOC(C)=O)C)C)C)C)C | C27H43BrO2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 18 ml | CCOCC | C4H10O
solvent | ether | 26 ml | CCOCC | C4H10O
product | 3,7,11,15,19,23,27,31, 35-nonamethyl-2,6,10,14,18,26,30,34-hexatriacontaoctaen-22-on-1-ol | 29 g | CC(=CCO)CCC=C(CCC=C(CCC=C(CCC=C(CCC(C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)=O)C)C)C)C | C45H74O2
